US07652049B2
A solution of methyl[3,5-bis(trifluoromethyl)phenyl]({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)acetate (13.2 mg, 0.0217 mmol) was dissolved in Et2O (1.5 mL) and cooled to 0° C. LAH (108.5 μL of a 1 M solution in LAH, 0.1085 mmol) was added dropwise by syringe. The reaction was warmed to room temperature and stirred at room temperature for 1 hour. The reaction was then quenched by addition of H2O (100 μL) followed by 1 N NaOH (100 μL), followed by H2O (300 mL). The gelatinous precipitate was washed several times with CH2Cl2. The organic washes were filtered through a plug of silica gel with 2% MeOH/CH2Cl2 and the filtrate was concentrated. Purification of the residue by PTLC with 25% EtOAc/hexanes afforded 2-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol. Rf=0.27 (25% EtOAc/hexanes). LCMS=580.4 (M+1)+. 1H NMR (CD2Cl2, 500 MHz) δ 7.79 (s, 1H), 7.75 (s, 2H), 7.63-7.68 (m, 1H), 7.55 (d, J=7.8 Hz, 1H), 7.31 (d, J=7.8 Hz, 1H), 7.23 (m, 1H), 6.94 (m, 1H), 6.89 (m, 1H), 3.43-3.76 (m, 9H), 2.86 (m, 1H), 1.90 (bs, 1H), 1.20 (d, J=6.8 Hz, 6H).

reactant | methyl[3,5-bis(trifluoromethyl)phenyl]({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)acetate | 0.0217 mmol, 13.2 mg | COC(C(NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C29H26F9NO3
solvent | Et2O | 1.5 mL | CCOCC | C4H10O
solvent | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
product | 2-[3,5-bis(trifluoromethyl)phenyl]-2-({[5′-isopropyl-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]methyl}amino)ethanol | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CO)NCC1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC(=C1)C(C)C)OC)(F)F | C28H26F9NO2
